US08044213B2
A mixture of 0.089 g (0.2 mmole) of 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (VI.1a), 2 mL of actonitrile and 0.5 mL of 1 M hydrochloric acid was stirred at 60 degrees for 30 minutes. The mixture was concentrated under reduced pressure. The residue was diluted with 5 mL of saturated sodium bicarbonate and extracted twice with 20 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 0.080 g of 2-(5-formyl-2-nitro-phenylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (VI.1b) as an orange oil. The crude was carried to the next step reaction without further purification.

reactant | 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.2 mmole, 0.089 g | C(C)OC(=O)C1=C(N=C(S1)NC1=C(C=CC(=C1)C(OC)OC)[N+](=O)[O-])C1=CC=CC=C1 | C21H21N3O6S
reactant | hydrochloric acid | 1 M, 0.5 mL | Cl | ClH
solvent | actonitrile | 2 mL | C(C)#N | C2H3N
product | 2-(5-formyl-2-nitro-phenylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.080 g | C(C)OC(=O)C1=C(N=C(S1)NC1=C(C=CC(=C1)C=O)[N+](=O)[O-])C1=CC=CC=C1 | C19H15N3O5S
